US05206229
A solution of ethyl 3-oxodecanoate (25.7 g) in ethanol (360 ml) and aqueous potassium hydroxide (260 ml, 1M) was stirred at room temperature for 18 hours. The solvent was removed in vacuo to give crude potassium 3-oxodecanoate.

reactant | ethyl 3-oxodecanoate | 25.7 g | O=C(CC(=O)OCC)CCCCCCC | C12H22O3
reactant | potassium hydroxide | 1M, 260 ml | [OH-].[K+]
solvent | ethanol | 360 ml | C(C)O | C2H6O
product | potassium 3-oxodecanoate | O=C(CC(=O)[O-])CCCCCCC.[K+] | InChI=1S/C10H18O3.K/c1-2-3-4-5-6-7-9(11)8-10(12)13;/h2-8H2,1H3,(H,12,13);/q;+1/p-1
